US09102591B2
2-Chloro-5-methyl-N-(1-pyridin-3-yl-cyclopentylmethyl)-benzamide
From 2-chloro-5-methylbenzoic acid and C-(1-pyridin-3-yl-cyclopentyl)-methylamine. LCMS (MH+): m/z=329.0, tR (minutes, Method A)=1.14

reactant | 2-chloro-5-methylbenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)C | C8H7ClO2
reactant | C-(1-pyridin-3-yl-cyclopentyl)-methylamine | N1=CC(=CC=C1)C1(CCCC1)CN | C11H16N2
product | 2-Chloro-5-methyl-N-(1-pyridin-3-yl-cyclopentylmethyl)-benzamide | ClC1=C(C(=O)NCC2(CCCC2)C=2C=NC=CC2)C=C(C=C1)C | C19H21ClN2O
